US04036633
A mixture of 70 g of m-benzyloxy-acetylacetanilide, 37 g of methyl orthoformate and 100 ml of methanol was stirred at 20°C. for 16 hours and 2 ml of quinoline were added thereto. The mixture was concentrated to dryness under reduced pressure and the residue was added to isopropyl ether. The mixture was cooled and vacuum filtered and the recovered precipitate was dried and chromatographed over silica gel. Elution with an 8-2 methylene chloride-acetone mixture gave 48 g of m-benzyloxy-3,3-dimethoxy-butyranilide melting at 83°C.

reactant | m-benzyloxy-acetylacetanilide | 70 g | C(C1=CC=CC=C1)OC=1C=C(NC(CC(C)=O)=O)C=CC1 | C17H17NO3
reactant | methyl orthoformate | 37 g | C(OC)([O-])[O-]
reactant | quinoline | 2 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | methanol | 100 ml | CO | CH4O
product | m-benzyloxy-3,3-dimethoxy-butyranilide | 48 g | C(C1=CC=CC=C1)OC=1C=C(NC(CC(C)(OC)OC)=O)C=CC1 | C19H23NO4
